US04539410
A solution of 4 g of 1-(7-ethoxycarbonylheptyl)-3-methyl-2-(1-imidazolyl)indole in 40 ml of n-butanol is saturated with methylamine and heated on a steam bath in a pressure bottle for 3 days. The reaction mixture is evaporated to dryness to yield 1-[7-(N-methylcarbamoyl)heptyl]-3-methyl-2-(1-imidazolyl)indole.

reactant | 1-(7-ethoxycarbonylheptyl)-3-methyl-2-(1-imidazolyl)indole | 4 g | C(C)OC(=O)CCCCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C22H29N3O2
reactant | methylamine | CN | CH5N
solvent | n-butanol | 40 ml | C(CCC)O | C4H10O
product | 1-[7-(N-methylcarbamoyl)heptyl]-3-methyl-2-(1-imidazolyl)indole | CNC(=O)CCCCCCCN1C(=C(C2=CC=CC=C12)C)N1C=NC=C1 | C21H28N4O
